US09359352B2
Synthesis of 6-chloro-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one (E-26)
To a solution of ethyl 2-(2-amino-6-chloropyridin-3-ylamino)acetate (E-25) (4.58 g, 20 mmol, 1.0 eq) in dry 1,4-dioxane (50 mL) was added sodium hydride (60% in mineral oil, 240 mg, 6 mmol, 0.3 eq), the resulting mixture was stirred at reflux for 2 h then cooled to RT and neutralized with con. HCl to adjust the pH value to 8˜9, concentrated in vacuo to remove most of solvent and then filtered, the filter cake was washed with water and ethyl acetate/petroleum ether (1:1) and dried to afford the desired product 6-chloro-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one (E-26) (2.5 g, 68% yield) as a pale solid. 1H NMR (300 MHz, DMSO-d6) δ: 10.86 (bs, 1H), 6.96 (d, J=8.1 Hz, 1H), 6.79 (d, J=8.1 Hz, 1H), 6.35 (bs, 1H), 3.78 (d, J=1.5 Hz, 2H); ESI-MS m/z: 183.95[M+H]+.

reactant | ethyl 2-(2-amino-6-chloropyridin-3-ylamino)acetate | 20 mmol, 4.58 g, 1.0 eq | NC1=NC(=CC=C1NCC(=O)OCC)Cl | C9H12ClN3O2
reactant | sodium hydride | 6 mmol, 240 mg, 0.3 eq | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 6-chloro-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one | 2.5 g, 68% yield | ClC=1C=CC2=C(NC(CN2)=O)N1 | C7H6ClN3O
